US05698553
6-(3-Chloro-1-oxopropyl)-1,2,3,4-tetrahydroquinazolin-2-one
20 g of aluminium chloride (0.15 mol) are taken up in 100 ml of dichloromethane. 7.43 g of 1,2,3,4-tetrahydroquinazolin-2-one (0.05 mol) are added in portions with stirring at a maximum of 20° C. The reaction mixture thus obtained is subsequently stirred for 30 minutes. A solution consisting of 6.98 g of 3-chloropropionyl chloride (0.055 mol) and 50 ml of dichloromethane is then added dropwise with stirring at a temperature of at most 25° C. and the mixture is subsequently stirred for a further hour. After completion of the reaction, the reaction mixture obtained is stirred into 300 g of ice, and the precipitate is filtered off with suction and washed with plenty of water and small amounts of methanol. The reaction forms a slightly more polar product than the starting material, which can be separated by thin-layer chromatography using an eluent consisting of chloroform and methanol in the mixture ratio 95:5. Yield: 11.37 g of 6-(3-chloro-1-oxopropyl)-1,2,3,4-tetrahydroquinazolin-2-one (95.3% of theory); m.p: >270° C.

reactant | aluminium chloride | 0.15 mol, 20 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,2,3,4-tetrahydroquinazolin-2-one | 0.05 mol, 7.43 g | N1C(NCC2=CC=CC=C12)=O | C8H8N2O
reactant | 3-chloropropionyl chloride | 0.055 mol, 6.98 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6-(3-Chloro-1-oxopropyl)-1,2,3,4-tetrahydroquinazolin-2-one | ClCCC(=O)C=1C=C2CNC(NC2=CC1)=O | C11H11ClN2O2
